US08461339B2
C. 1-(2-Chloropyridin-4-ylmethyl)-4-benzyloxyacetylpiperazine
N-Benzyloxyacetyl-piperazine (1.0 equiv) was mixed with the compound 2-chloro-4-(chloro-methyl)pyridine (1.0 equiv) and K2CO3 (4 equiv) in DMF. The mixture was stirred for 1 h at rt. After removing most of the solvent, the residue was partitioned in water and EtOAc. The organic layer was separated, dried over anhydrous Na2SO4, and evaporated in vacuo. The residue was purified by flash chromatography to give the title compound as a solid.

reactant | N-Benzyloxyacetyl-piperazine | 1.0 equiv | C(C1=CC=CC=C1)OCC(=O)N1CCNCC1 | C13H18N2O2
reactant | 2-chloro-4-(chloro-methyl)pyridine | 1.0 equiv | ClC1=NC=CC(=C1)CCl | C6H5Cl2N
reactant | K2CO3 | 4 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-Chloropyridin-4-ylmethyl)-4-benzyloxyacetylpiperazine | ClC1=NC=CC(=C1)CN1CCN(CC1)C(COCC1=CC=CC=C1)=O | C19H22ClN3O2
